US07105507B2
1,1-Dimethylethyl 4-(Hydroxymethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate
Finely ground potassium hydroxide (248 mg, 44 mmol) was added to a stirred, cooled (10° C.) solution of 1,1-dimethylethyl 4,4-bis(hydroxymethyl)-1-piperidinecarboxylate (Description 67, 1.83 g, 7.4 mmol), 18-crown-6 (196 mg, 0.74 mmol) and benzyl bromide (884 μL, 7.4 mmol) in tetrahydrofuran (80 mL) and the mixture was stirred at room temperature for 16 hours. Brine (40 mL) was added and the layers were separated. The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (80:20 increasing to 50:50) to give the title compound (1.0 g, 40%). m/z (ES+) 336 (M+1).

reactant | potassium hydroxide | 44 mmol, 248 mg | [OH-].[K+]
reactant | 1,1-dimethylethyl 4,4-bis(hydroxymethyl)-1-piperidinecarboxylate | 7.4 mmol, 1.83 g | OCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C12H23NO4
reactant | 18-crown-6 | 0.74 mmol, 196 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | benzyl bromide | 7.4 mmol, 884 μL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | Brine | 40 mL | [Cl-].[Na+].O
product | 1,1-Dimethylethyl 4-(Hydroxymethyl)-4-(phenylmethoxymethyl)-1-piperidinecarboxylate | 1.0 g, 40% | OCC1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC=CC=C1 | C19H29NO4
